.title kicad schematic

* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad11_ port
* u19 net-_u1-pad5_ net-_u1-pad6_ net-_u19-pad3_ d_and
* u20 net-_u1-pad7_ net-_u1-pad8_ net-_u20-pad3_ d_and
* u23 net-_u21-pad3_ net-_u1-pad11_ d_inverter
* u21 net-_u17-pad3_ net-_u18-pad3_ net-_u21-pad3_ d_and
* u24 net-_u22-pad3_ net-_u1-pad9_ d_inverter
* u22 net-_u19-pad3_ net-_u20-pad3_ net-_u22-pad3_ d_and
* u18 net-_u1-pad3_ net-_u1-pad4_ net-_u18-pad3_ d_and
* u17 net-_u1-pad1_ net-_u1-pad2_ net-_u17-pad3_ d_and
a1 [net-_u1-pad5_ net-_u1-pad6_ ] net-_u19-pad3_ u19
a2 [net-_u1-pad7_ net-_u1-pad8_ ] net-_u20-pad3_ u20
a3 net-_u21-pad3_ net-_u1-pad11_ u23
a4 [net-_u17-pad3_ net-_u18-pad3_ ] net-_u21-pad3_ u21
a5 net-_u22-pad3_ net-_u1-pad9_ u24
a6 [net-_u19-pad3_ net-_u20-pad3_ ] net-_u22-pad3_ u22
a7 [net-_u1-pad3_ net-_u1-pad4_ ] net-_u18-pad3_ u18
a8 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u17-pad3_ u17
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u22 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u18 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u17 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
