* Subcircuit 74S137
.subckt 74S137 net-_u5-pad1_ net-_u4-pad1_ net-_u3-pad1_ net-_u2-pad1_ net-_u1-pad1_ net-_u6-pad2_ net-_sc1-pad5_ net-_sc2-pad5_ net-_sc3-pad5_ net-_sc4-pad5_ net-_sc5-pad5_ net-_sc6-pad5_ net-_sc7-pad5_ net-_sc8-pad5_

* inverters
a4  net-_u4-pad1_ net-_u4-pad2_ u4
a6  net-_u5-pad1_ net-_u5-pad2_ u5
a9  net-_u3-pad1_ net-_u3-pad2_ u3
a16 net-_u2-pad1_ net-_u2-pad2_ u2
a18 net-_u1-pad1_ net-_u1-pad2_ u1

* and gates
a2  [net-_u5-pad1_ net-_u2-pad2_ ] net-_u11-pad3_ u11
a3  [net-_u5-pad2_ net-_u2-pad2_ ] net-_u12-pad3_ u12
a5  [net-_u4-pad2_ net-_u2-pad2_ ] net-_u10-pad3_ u10
a7  [net-_u4-pad1_ net-_u2-pad2_ ] net-_u9-pad3_  u9
a8  [net-_u3-pad2_ net-_u2-pad2_ ] net-_u8-pad3_  u8
a14 [net-_u1-pad2_ net-_u6-pad2_ ] net-_u6-pad3_  u6
a15 [net-_u3-pad1_ net-_u2-pad2_ ] net-_u7-pad3_  u7

* nor gates (latch/feedback)
a1  [net-_u8-pad3_  net-_u13-pad3_ ] net-_u13-pad1_ u14
a10 [net-_u15-pad1_ net-_u9-pad3_  ] net-_u15-pad3_ u15
a11 [net-_u10-pad3_ net-_u15-pad3_ ] net-_u15-pad1_ u16
a12 [net-_u17-pad1_ net-_u11-pad3_ ] net-_u17-pad3_ u17
a13 [net-_u12-pad3_ net-_u17-pad3_ ] net-_u17-pad1_ u18
a17 [net-_u13-pad1_ net-_u7-pad3_  ] net-_u13-pad3_ u13

* nand4 output gates (replacing sky130)
asc1 [net-_u17-pad1_ net-_u15-pad1_ net-_u13-pad1_ net-_u6-pad3_] net-_sc1-pad5_ usc
asc2 [net-_u17-pad3_ net-_u15-pad1_ net-_u13-pad1_ net-_u6-pad3_] net-_sc2-pad5_ usc
asc3 [net-_u17-pad1_ net-_u15-pad3_ net-_u13-pad1_ net-_u6-pad3_] net-_sc3-pad5_ usc
asc4 [net-_u17-pad3_ net-_u15-pad3_ net-_u13-pad1_ net-_u6-pad3_] net-_sc4-pad5_ usc
asc5 [net-_u17-pad1_ net-_u15-pad1_ net-_u13-pad3_ net-_u6-pad3_] net-_sc5-pad5_ usc
asc6 [net-_u17-pad3_ net-_u15-pad1_ net-_u13-pad3_ net-_u6-pad3_] net-_sc6-pad5_ usc
asc7 [net-_u17-pad1_ net-_u15-pad3_ net-_u13-pad3_ net-_u6-pad3_] net-_sc7-pad5_ usc
asc8 [net-_u17-pad3_ net-_u15-pad3_ net-_u13-pad3_ net-_u6-pad3_] net-_sc8-pad5_ usc

* models
.model usc  d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12)
.model u14  d_nor(rise_delay=1.0e-9  fall_delay=1.0e-9 input_load=1.0e-12)
.model u11  d_and(rise_delay=1.0e-9  fall_delay=1.0e-9 input_load=1.0e-12)
.model u12  d_and(rise_delay=1.0e-9  fall_delay=1.0e-9 input_load=1.0e-12)
.model u4   d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12)
.model u10  d_and(rise_delay=1.0e-9  fall_delay=1.0e-9 input_load=1.0e-12)
.model u5   d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12)
.model u9   d_and(rise_delay=1.0e-9  fall_delay=1.0e-9 input_load=1.0e-12)
.model u8   d_and(rise_delay=1.0e-9  fall_delay=1.0e-9 input_load=1.0e-12)
.model u3   d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12)
.model u15  d_nor(rise_delay=1.0e-9  fall_delay=1.0e-9 input_load=1.0e-12)
.model u16  d_nor(rise_delay=1.0e-9  fall_delay=1.0e-9 input_load=1.0e-12)
.model u17  d_nor(rise_delay=1.0e-9  fall_delay=1.0e-9 input_load=1.0e-12)
.model u18  d_nor(rise_delay=1.0e-9  fall_delay=1.0e-9 input_load=1.0e-12)
.model u6   d_and(rise_delay=1.0e-9  fall_delay=1.0e-9 input_load=1.0e-12)
.model u7   d_and(rise_delay=1.0e-9  fall_delay=1.0e-9 input_load=1.0e-12)
.model u2   d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12)
.model u13  d_nor(rise_delay=1.0e-9  fall_delay=1.0e-9 input_load=1.0e-12)
.model u1   d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12)

.ends 74S137
